US04370254
49.4 g (0.099 mol) of perfluorooctane sulphonamide and 2.37 g (0.099 mol) of lithium hydroxide were introduced into 448 g of water and dissolved at ca. about 50° C. with stirring. A 10% solution of C8F17SO2NHLi was obtained.

reactant | perfluorooctane sulphonamide | 0.099 mol, 49.4 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)N)F | C8H2F17NO2S
reactant | lithium hydroxide | 0.099 mol, 2.37 g | [OH-].[Li+]
solvent | water | 448 g | O | H2O
product | C8F17SO2NHLi | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N[Li] | InChI=1S/C8HF17NO2S.Li/c9-1(10,3(13,14)5(17,18)7(21,22)23)2(11,12)4(15,16)6(19,20)8(24,25)29(26,27)28;/h(H-,26,27,28);/q-1;+1
